US07160875B2
(S)-7-amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one was coupled with (S)-2-fluoro-2-methyl-malonic acid monoethyl ester in analogy to the description in example 73 to yield (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid ethyl ester as colourless oil.

reactant | (S)-7-amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CC1CC1)C=CC=C3)C=CC=C2 | C18H18N2O
reactant | (S)-2-fluoro-2-methyl-malonic acid monoethyl ester | C(C)OC([C@@](C(=O)O)(C)F)=O | C6H9FO4
product | (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid ethyl ester | C(C)OC([C@@](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CC1CC1)C=CC=C3)C=CC=C2)(C)F)=O | C24H25FN2O4
